US04198417
A mixture of 2.5 g of 4-cyano-1-methyl-4-(2-phenoxyphenyl)piperidine, free base of Example 1, and 1.7 g of phenyl chloroformate in 50 ml of methylene chloride is permitted to stand for 24 hours before being poured onto 100 g of ice. Thereafter, the mixture is extracted with 50 ml of methylene chloride and the organic solution is successively washed twice with 50 ml portions of water, washed once with 40 ml saturated sodium bicarbonate solution, washed once with 40 ml saturated sodium chloride solution, dried and evaporated to provide an oil. The oil is chromatographed (silica gel 60 column, ether eluant) and then chromatographed (silica gel 60 column, ether-hexane (1:1) mixture eluant) until there is no indication of contamination by the layer chromatography. Thereafter, the product is chromatographed through the same absorbent, ether eluant to provide a glassy solid of 4-cyano-1-phenoxycarbonyl-4-(2-phenoxyphenyl)piperidine.

reactant | 4-cyano-1-methyl-4-(2-phenoxyphenyl)piperidine | 2.5 g | C(#N)C1(CCN(CC1)C)C1=C(C=CC=C1)OC1=CC=CC=C1 | C19H20N2O
reactant | phenyl chloroformate | 1.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-cyano-1-phenoxycarbonyl-4-(2-phenoxyphenyl)piperidine | C(#N)C1(CCN(CC1)C(=O)OC1=CC=CC=C1)C1=C(C=CC=C1)OC1=CC=CC=C1 | C25H22N2O3
